US08258297B2
N-Phenanthridin-6-yl-N′-o-tolylhydrazine hydrochloride
A solution of o-tolylhydrazine hydrochloride (7.6 g, 47 mmol) in dichloromethane (450 ml) is extracted by shaking three times each with saturated aqueous sodium hydrogencarbonate solution (90 ml each time) and demineralized water. The organic phase is dried over sodium sulfate, filtered and concentrated to dryness. Yield: 4.9 g (86%). The hydrazine (4.8 g, 39 mmol) is dissolved in ethanol (100 ml) and admixed under argon with 6-chlorophenanthridine (A. G. Mikhailovskii, V. S. Shklyaev, Chem. Heterocycl. Comp. 1992, 445) (7.0 g, 33 mmol). The mixture is stirred under reflux for 16 h. After cooling to room temperature, the resulting precipitate is filtered off and washed with ethanol and petroleum ether. Yield: 9.3 g (85%).

reactant | o-tolylhydrazine hydrochloride | 47 mmol, 7.6 g | Cl.C1(=C(C=CC=C1)NN)C
reactant | sodium hydrogencarbonate | 90 ml | C(O)([O-])=O.[Na+]
reactant | hydrazine | 39 mmol, 4.8 g | NN | H4N2
reactant | 6-chlorophenanthridine | ClC=1N=C2C=CC=CC2=C2C=CC=CC12 | C13H8ClN
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-Phenanthridin-6-yl-N′-o-tolylhydrazine hydrochloride | Cl.C1=CC=CC2=NC(=C3C=CC=CC3=C12)NNC1=C(C=CC=C1)C | InChI=1S/C20H17N3.ClH/c1-14-8-2-6-12-18(14)22-23-20-17-11-4-3-9-15(17)16-10-5-7-13-19(16)21-20;/h2-13,22H,1H3,(H,21,23);1H
